US06562978B1
1-tert-Butoxycarbonyl-4-[(4-ethoxyphenyl)sulfanyl]piperidine
A mixture of 1-tert-Butoxycarbonyl-4-[(4-hydroxyphenyl)sulfanyl]piperidine (3.09 g, 10.0 mmol), ethyl iodide (1.04 mL, 13.0 mmol), and potassium carbonate (1.80 g, 13.0 mmol) in DMF (15 mL) was stirred at 60° C. for 20 hours. The reaction mixture was evaporated under reduced pressure. The residue was diluted with ethyl acetate (40 mL), washed with water (10 mL), 0.5 N sodium hydroxide solution (10 mL×3), brine (10 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, using ethyl acetate/hexane (1/19 to 1/9) as eluent to afford the title compound (3.21 g, 9.52 mmol, 95%) as a colorless oil.

reactant | 1-tert-Butoxycarbonyl-4-[(4-hydroxyphenyl)sulfanyl]piperidine | 10.0 mmol, 3.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=CC=C(C=C1)O | C16H23NO3S
reactant | ethyl iodide | 13.0 mmol, 1.04 mL | C(C)I | C2H5I
reactant | potassium carbonate | 13.0 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-tert-Butoxycarbonyl-4-[(4-ethoxyphenyl)sulfanyl]piperidine | 9.52 mmol, 3.21 g, 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)SC1=CC=C(C=C1)OCC | C18H27NO3S
